US07846960B2
3-(2-{4-[4-Isopropyl-2-(2-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-vinyl)-benzoic Acid Methyl Ester
To a suspension of 3-[2-(4-hydroxy-2-methyl-phenyl)-vinyl]-benzoic acid methyl ester (107 mg, 0.4 mmol) and potassium carbonate (138 mg, 1 mmol) in CH3CN (4 mL) is added 5-bromomethyl-4-isopropyl-1-(2-trifluoromethyl-phenyl)-1H-pyrazole in CH3CN (4 mL, approximately 0.1 mmol/mL). The reaction mixture is stirred at 80° C. for 5 hours and filtered through a Celite® pad eluting with EtOAc. The combined filtrate is concentrated and purified by column chromatography (0 to 20% EtOAc in hexanes) to give the desired product, 136 mg (64%).

reactant | 3-[2-(4-hydroxy-2-methyl-phenyl)-vinyl]-benzoic acid methyl ester | 0.4 mmol, 107 mg | COC(C1=CC(=CC=C1)C=CC1=C(C=C(C=C1)O)C)=O | C17H16O3
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromomethyl-4-isopropyl-1-(2-trifluoromethyl-phenyl)-1H-pyrazole | BrCC1=C(C=NN1C1=C(C=CC=C1)C(F)(F)F)C(C)C | C14H14BrF3N2
solvent | CH3CN | 4 mL | CC#N | C2H3N
solvent | CH3CN | approximately 0.1 mmol/mL, 4 mL | CC#N | C2H3N
product | 3-(2-{4-[4-Isopropyl-2-(2-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-vinyl)-benzoic Acid Methyl Ester | COC(C1=CC(=CC=C1)C=CC1=C(C=C(C=C1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1)C(F)(F)F)C)=O | C31H29F3N2O3
